US04463172
A 41.5 ml portion of PCl3 was added to a solution of 32 g of diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-acetoxymethylceph-3-em-4-carboxylate 1-oxide in 200 ml of DMF at -50° C., and the mixture was stirred at -30° C. for 5 minutes and poured in ice water to extract with AcOEt. The AcOEt layer was washed with 5% aqueous NaHCO3 and saturated aqueous sodium chloride solutions, and dried over Na2SO4, followed by distilling off the AcOET under reduced pressure, thus yielding crude crystals. Recrystalization from AcOEt-Et2O (1:3) afforded 17 g (55%) of diphenylmethyl 7-(2-thienylacetamido)-2β-methyl-3-acetoxymethylceph-3-em-4-carboxylate.

reactant | PCl3 | P(Cl)(Cl)Cl | Cl3P
reactant | diphenylmethyl 7-(2-thienylacetamido)-2-methyl-3-acetoxymethylceph-3-em-4-carboxylate 1-oxide | 32 g | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(C(S2=O)C)COC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H28N2O7S2
solvent | DMF | 200 ml | CN(C)C=O | C3H7NO
product | diphenylmethyl 7-(2-thienylacetamido)-2β-methyl-3-acetoxymethylceph-3-em-4-carboxylate | 17 g, 55% | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C([C@@H](S2)C)COC(C)=O)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H28N2O6S2
